// File: pmos2.spi
// Created: Tue Oct 15 16:00:16 2024
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/home/zwils11/Documents/OSU_SKY130_FLOW/calibre/sky130_rhbd_output/spice/pmos2.pex.spice"
subckt pmos2 (  )
// 
M0_noxref ( noxref_2 N_noxref_4_M0_noxref_g noxref_1 noxref_5 ) PMOS l=0.15 \
 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M1_noxref ( noxref_3 N_noxref_4_M1_noxref_g noxref_2 noxref_5 ) PMOS l=0.15 \
 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
c_4 ( noxref_1 0 ) capacitor c=0.088445f //x=0.44 //y=-2
c_10 ( noxref_2 0 ) capacitor c=0.0289494f //x=0.87 //y=-2
c_14 ( noxref_3 0 ) capacitor c=0.088445f //x=1.31 //y=-2
// 
include "/home/zwils11/Documents/OSU_SKY130_FLOW/calibre/sky130_rhbd_output/spice/pmos2.pxi.spice"
// 
ends PMOS2
// 
// 
